US05866589
1-Benzyl-4-[N-propyl-N-(3-nitro-2-pyridinyl)amino]piperidine
Following the general procedure of EXAMPLE 70, and making non-critical variations but substituting 1-benzyl-4-(propylamino)piperidine (EXAMPLE 112) for 1-benzyl-4-(methylamino)piperidine and 2-chloro-3-nitropyridine for 2-bromo-3-ethoxypyridine and using a reaction time of 10 min, the title compound is obtained, C,H,N: Anal. Calcd for C20H26N4O2 : C=67.77, H=7.39, N=15.81-found: C=67.44, H=7.42, N=15.60.

reactant | 1-benzyl-4-(methylamino)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-bromo-3-ethoxypyridine | BrC1=NC=CC=C1OCC | C7H8BrNO
product | 1-Benzyl-4-[N-propyl-N-(3-nitro-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1[N+](=O)[O-])CCC | C20H26N4O2
